US08541595B2
Step 2, Example I-A: 5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole
A solution of 5-(4-bromophenyl)-2,5-dihydro-3H-imidazo[2,1-a]isoindol-5-ol (20.5 g) in AcOH (210 mL) was heated at 125° C. under nitrogen for 6.5 h. The reaction mixture was the cooled to room temperature and concentrated. The resulting residue was partitioned between EtOAc and saturated aqueous NaHCO3 solution. Aqueous layer was extracted with EtOAc (2×). Combined organic layers were washed with brine, dried over Na2SO4 and concentrated. Flash chromatography using a linear gradient of 0-4% MeOH in EtOAc-hexanes (1:1, v/v) afforded title compound as a light yellow solid. Mass. found (M+H)+, 311.0.

reactant | 5-(4-bromophenyl)-2,5-dihydro-3H-imidazo[2,1-a]isoindol-5-ol | 20.5 g | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NCC2)O | C16H13BrN2O
solvent | AcOH | 210 mL | CC(=O)O | C2H4O2
product | 5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole | BrC1=CC=C(C=C1)C1N2C(C3=CC=CC=C13)=NC=C2 | C16H11BrN2
